US04493861
4-cyclohexene-1,2-dicarboxylic acid anhydride is dissolved in three times the amount of dimethyl formamide, and an equimolar quantity of acetonitrile palladium dichloride is added in the course of 2 hours at 40° C. Dimethylformamide and acetonitrile are distilled off at 45° C./25 mbar. A brownish solid melting at from 53° to 54° C. is obtained in 90% yield. Isobutyl vinyl ether palladium dichloride is prepared analogously from acetonitrile palladium dichloride and isobutyl vinyl ether, melting point 57°-60° C.

reactant | 4-cyclohexene-1,2-dicarboxylic acid anhydride | C12C(CC=CC1)C(=O)OC2=O | C8H8O3
reactant | acetonitrile palladium dichloride | [Pd](Cl)Cl.C(C)#N
reactant | isobutyl vinyl ether | C(=C)OCC(C)C | C6H12O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | Isobutyl vinyl ether palladium dichloride | 90% yield | [Pd](Cl)Cl.C(=C)OCC(C)C | InChI=1S/C6H12O.2ClH.Pd/c1-4-7-5-6(2)3;;;/h4,6H,1,5H2,2-3H3;2*1H;/q;;;+2/p-2
